### PR TITLE
[Merged by Bors] - feat: `x - 1 ∣ x ^ n - 1` for `Nat`

### PR DESCRIPTION
**Pull request by yuanyi-350**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by yuanyi-350** [comment]
easy

File: Mathlib/Algebra/Ring/GeomSum.lean [hunk 1]
```diff
@@ -296,17 +296,34 @@ lemma mul_geom_sum₂_Ico (x y : R) {m n : ℕ} (hmn : m ≤ n) :
 
 end CommRing
 
+section Nat
```
Comment (YaelDillies) [inline Mathlib/Algebra/Ring/GeomSum.lean]:
```suggestion
namespace Nat
variable {m k : ℕ}
```

File: Mathlib/Algebra/Ring/GeomSum.lean [hunk 2]
```diff
@@ -296,17 +296,34 @@ lemma mul_geom_sum₂_Ico (x y : R) {m n : ℕ} (hmn : m ≤ n) :
...
+
 lemma nat_sub_dvd_pow_sub_pow (x y n : ℕ) : x - y ∣ x ^ n - y ^ n := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Ring/GeomSum.lean]:
```suggestion
protected lemma sub_dvd_pow_sub_pow (x y n : ℕ) : x - y ∣ x ^ n - y ^ n := by
```

File: Mathlib/Algebra/Ring/GeomSum.lean [hunk 3]
```diff
@@ -296,17 +296,34 @@ lemma mul_geom_sum₂_Ico (x y : R) {m n : ℕ} (hmn : m ≤ n) :
...
   rcases le_or_gt y x with h | h
   · have : y ^ n ≤ x ^ n := Nat.pow_le_pow_left h _
     exact mod_cast sub_dvd_pow_sub_pow (x : ℤ) (↑y) n
   · have : x ^ n ≤ y ^ n := Nat.pow_le_pow_left h.le _
     exact (Nat.sub_eq_zero_of_le this).symm ▸ dvd_zero (x - y)
 
+lemma nat_sub_one_dvd_pow_sub_one (x n : ℕ) : x - 1 ∣ x ^ n - 1 := by
+  simpa using nat_sub_dvd_pow_sub_pow x 1 n
```
Comment (YaelDillies) [inline Mathlib/Algebra/Ring/GeomSum.lean]:
```suggestion
lemma sub_one_dvd_pow_sub_one (x n : ℕ) : x - 1 ∣ x ^ n - 1 := by
  simpa using x.sub_dvd_pow_sub_pow 1 n
```

File: Mathlib/Algebra/Ring/GeomSum.lean [hunk 4]
```diff
@@ -296,17 +296,34 @@ lemma mul_geom_sum₂_Ico (x y : R) {m n : ℕ} (hmn : m ≤ n) :
...
+
+lemma nat_pow_sub_pow_dvd_pow_mul_sub_pow (x y m n : ℕ) :
+    x ^ m - y ^ m ∣ x ^ (m * n) - y ^ (m * n) := by
+  have := nat_sub_dvd_pow_sub_pow (x ^ m) (y ^ m) n
+  rwa [← Nat.pow_mul, ← Nat.pow_mul] at this
+
+lemma nat_pow_sub_pow_dvd_pow_sub_pow_of_dvd (x y m k : ℕ) (hmk : m ∣ k) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Ring/GeomSum.lean]:
```suggestion
lemma pow_sub_pow_dvd_pow_sub_pow (hmk : m ∣ k) (x y : ℕ) :
```

File: Mathlib/Algebra/Ring/GeomSum.lean [hunk 5]
```diff
@@ -296,17 +296,34 @@ lemma mul_geom_sum₂_Ico (x y : R) {m n : ℕ} (hmn : m ≤ n) :
...
+    x ^ m - y ^ m ∣ x ^ k - y ^ k := by
+  rcases hmk with ⟨n, hn⟩
+  simpa [hn] using nat_pow_sub_pow_dvd_pow_mul_sub_pow x y m n
+
 lemma nat_pow_one_sub_dvd_pow_mul_sub_one (x m n : ℕ) : x ^ m - 1 ∣ x ^ (m * n) - 1 := by
-  nth_rw 2 [← Nat.one_pow n]
-  rw [Nat.pow_mul x m n]
-  apply nat_sub_dvd_pow_sub_pow (x ^ m) 1
+  simpa using nat_pow_sub_pow_dvd_pow_mul_sub_pow x 1 m n
```
Comment (YaelDillies) [inline Mathlib/Algebra/Ring/GeomSum.lean]:
```suggestion
  obtain ⟨n, rfl⟩ := hmk; simpa [pow_mul] using (x ^ m).sub_dvd_pow_sub_pow (y ^ m) n
```

File: Mathlib/Algebra/Ring/GeomSum.lean [hunk 6]
```diff
@@ -296,17 +296,34 @@ lemma mul_geom_sum₂_Ico (x y : R) {m n : ℕ} (hmn : m ≤ n) :
...
+
+lemma nat_pow_one_sub_dvd_pow_sub_one_of_dvd (x m k : ℕ) (hmk : m ∣ k) : x ^ m - 1 ∣ x ^ k - 1 := by
+  rcases hmk with ⟨n, hn⟩
+  simpa [hn] using nat_pow_one_sub_dvd_pow_mul_sub_one x m n
```
Comment (YaelDillies) [inline Mathlib/Algebra/Ring/GeomSum.lean]:
```suggestion
lemma pow_sub_one_dvd_pow_sub_one (hmk : m ∣ k) (x : ℕ) : x ^ m - 1 ∣ x ^ k - 1 := by
  simpa using pow_sub_pow_dvd_pow_sub_pow hmk x 1
```

File: Mathlib/Algebra/Ring/GeomSum.lean [hunk 7]
```diff
@@ -296,17 +296,34 @@ lemma mul_geom_sum₂_Ico (x y : R) {m n : ℕ} (hmn : m ≤ n) :
...
 
 lemma Odd.nat_add_dvd_pow_add_pow (x y : ℕ) {n : ℕ} (h : Odd n) : x + y ∣ x ^ n + y ^ n :=
```
Comment (YaelDillies) [inline Mathlib/Algebra/Ring/GeomSum.lean]:
```suggestion
lemma _root_.Odd.nat_add_dvd_pow_add_pow (x y : ℕ) {n : ℕ} (h : Odd n) : x + y ∣ x ^ n + y ^ n :=
```

**Comment by YaelDillies** [comment]
(please see https://leanprover-community.github.io/contribute/commit.html for the PR title convention 😉)

File: Mathlib/Algebra/Ring/GeomSum.lean (hunk 2 above)
Comment (yuanyi-350) [reply Mathlib/Algebra/Ring/GeomSum.lean]: In my opinion, this lemma is quite useful. Why should we make it a `protected lemma`?

Comment (YaelDillies) [reply Mathlib/Algebra/Ring/GeomSum.lean]: because `_root_.sub_dvd_pow_sub_pow` already exists and would conflict with `Nat.sub_dvd_pow_sub_pow` if `Nat` was opened and `Nat.sub_dvd_pow_sub_pow` wasn't protected. Note that a `protected` is still public, maybe you are confusing with `private`?

**Comment by YaelDillies** [comment]
Please mark the comments you've adressed as resolved 😄

File: Mathlib/Algebra/Ring/GeomSum.lean (hunk 2 above)
Comment (yuanyi-350) [reply Mathlib/Algebra/Ring/GeomSum.lean]: got it, thanks

File: Mathlib/Algebra/Ring/GeomSum.lean (hunk 5 above)
Comment (yuanyi-350) [reply Mathlib/Algebra/Ring/GeomSum.lean]: Why should we prefer `obtain` over `rcases`?”

**Comment by yuanyi-350** [comment]
> Please mark the comments you've adressed as resolved 😄

I have addressed almost all comments.

File: Mathlib/Algebra/Ring/GeomSum.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Ring/GeomSum.lean]: `obtain` is a word, and `rcases` isn't. But this is a matter of taste

File: Mathlib/Algebra/Ring/GeomSum.lean [hunk 8]
```diff
@@ -296,24 +296,33 @@ lemma mul_geom_sum₂_Ico (x y : R) {m n : ℕ} (hmn : m ≤ n) :
 
 end CommRing
 
-lemma nat_sub_dvd_pow_sub_pow (x y n : ℕ) : x - y ∣ x ^ n - y ^ n := by
+namespace Nat
+variable {m k : ℕ} (x y n : ℕ)
+
+protected lemma sub_dvd_pow_sub_pow : x - y ∣ x ^ n - y ^ n := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Ring/GeomSum.lean:302]: Sorry, I realise now that I made you rename an existing lemma. Would you mind running `scripts/add_deprecations.sh` to deprecate the old name, and fix downstream uses?

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Algebra/Ring/GeomSum.lean (hunk 8 above)
Comment (yuanyi-350) [reply Mathlib/Algebra/Ring/GeomSum.lean:302]: > Sorry, I realise now that I made you rename an existing lemma. Would you mind running `scripts/add_deprecations.sh` to deprecate the old name, and fix downstream uses?

Wait a minute—Mathlib/NumberTheory/FermatPsp may depend on these APIs, and I may need some time to fix them.

Comment (yuanyi-350) [reply Mathlib/Algebra/Ring/GeomSum.lean:302]: > Sorry, I realise now that I made you rename an existing lemma. Would you mind running `scripts/add_deprecations.sh` to deprecate the old name, and fix downstream uses?

I will give it a try. I'm not very familiar with running scripts.

Comment (YaelDillies) [reply Mathlib/Algebra/Ring/GeomSum.lean:302]: You can also simply type `depalias` + `TAB` and enter the old name yourself, followed by the new name

Comment (yuanyi-350) [reply Mathlib/Algebra/Ring/GeomSum.lean:302]: Is it OK now? I have executed `scripts/add_deprecations.sh` through Git Bash, and numerous additional `depalias` entries have appeared.

Comment (YaelDillies) [reply Mathlib/Algebra/Ring/GeomSum.lean:302]: That's probably because you ran it against the wrong base commit. It uses your local `master` branch by default, and I assume that one is very outdated. To avoid this, you can either specify the base commit by hand when the script asks for it (painful) or pull `master` before running the script (pretty painless)

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors merge
